US05302724
Procedure of Example 4B was followed with 3-thiophenesulfonamide (1.1 g, 6.81 mmole), acetone (10 ml), 1N NaOH (6.8 ml), 4-chlorophenyl isocyanate (1.05 g, 6.8 mmole) in acetone (10 ml), 1N HCl (8 ml) to give the N-[[(4-chlorophenyl)amino]carbonyl]-3-thiophenesulfonamide (1.44 g, 4 5 mmole).

reactant | 3-thiophenesulfonamide | 6.81 mmole, 1.1 g | S1C=C(C=C1)S(=O)(=O)N | C4H5NO2S2
reactant | NaOH | 1N, 6.8 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 6.8 mmole, 1.05 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | HCl | 1N, 8 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-[[(4-chlorophenyl)amino]carbonyl]-3-thiophenesulfonamide | 5 mmole, 1.44 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CSC=C1 | C11H9ClN2O3S2
